US08114891B2
5-Fluoro-N-((quinuclidin-4-yl)methyl)-1H-indazole-3-carboxamide was prepared in a similar manner to N-((quinuclidin-4-yl)methyl)-1H-indole-3-carboxamide, substituting 5-fluoro-1H-indazole-3-carbonyl chloride as the electrophile. 1HNMR: 10.6 (bs, 1H); 8.89 (t, 1H); 8.16 (dd, 1H); 7.9 (dd, 1H); 7.62 (m, 1H); 3.28 (m, 2H); 3.21 (m, 6H); 1.70 (m, 6H).

reactant | N-((quinuclidin-4-yl)methyl)-1H-indole-3-carboxamide | N12CCC(CC1)(CC2)CNC(=O)C2=CNC1=CC=CC=C21 | C17H21N3O
reactant | 5-fluoro-1H-indazole-3-carbonyl chloride | FC=1C=C2C(=NNC2=CC1)C(=O)Cl | C8H4ClFN2O
product | 5-Fluoro-N-((quinuclidin-4-yl)methyl)-1H-indazole-3-carboxamide | FC=1C=C2C(=NNC2=CC1)C(=O)NCC12CCN(CC1)CC2 | C16H19FN4O
